US06916819B2
To a stirring suspension of 4-chloro-3-nitrobenzonitrile (7.30 g, 40 mmol) in isopropanol (30 mL) is added n-propylamine (9.87 mL, 120 mmol). The mixture is stirred at room temperature for 5 h, and the solid is then collected by filtration to give 4-n-propylamino-3-nitrobenzonitrile as a yellow solid. 1H NMR (CDCl3) δ 8.51 (1H, q), 8.42(1H, br s), 7.60(1H, m), 6.91(1H, d), 3.33(2H, q), 1.84-1.74(2H, m), 1.07(3H, t). LRMS 206.3 (MH+).

reactant | 4-chloro-3-nitrobenzonitrile | 40 mmol, 7.30 g | ClC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | n-propylamine | 120 mmol, 9.87 mL | C(CC)N | C3H9N
solvent | isopropanol | 30 mL | C(C)(C)O | C3H8O
product | 4-n-propylamino-3-nitrobenzonitrile | C(CC)NC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C10H11N3O2
